US07304062B2
1-[4-[4-(1-Ethoxycarbonyl-1-methylethoxy)phenyl]butyryl]-2-(4-t-butylphenyl-methyl)-4-methylsemicarbazide
4-[4-(1-Ethoxycarbonyl-1-methyl-ethoxy)-phenyl] butyric acid (0.89 g, 3.02 mmol) was dissolved in ethyl acetate (10 mL). Oxalyl chloride (316 μL, 3.62 mmol) was added to this solution dropwise in the presence of a catalytic amount of N,N-dimethylformamide (17 μL, 0.24 mmol). Completion of acid chloride formation was verified by HPLC. The solution was then concentrated to remove excess oxalyl chloride and then redissolved in ethyl acetate (7 mL). This solution was then added dropwise to a suspension of N-Methyl-1-(4-t-butylphenylmethyl)hydrazine carboxamide methanesulfonate (1.02 g, 3.07 mmol) and pyridine (256 μL, 6.14 mmol) in ethyl acetate (10 mL) at 0° C. After stirring at 0° C. for 3 h, an additional charge of pyridine (256 μL, 6.14 mmol) was added and the solution was stirred at 0° C. for 1 h. The solution was warmed to rt and washed with 1N HCl (2×10 mL) and then with 5% aq. NaHCO3 (2×10 mL). The organic layer was dried (MgSO4), filtered and concentrated to an orange oil. Column chromatography (SiO2, ethyl acetate) afforded the title compound as a clear oil (1.06 g, 68%): 1H NMR (DMSO-d6, 60° C.) δ 9.50 (s, 1H), 7.29 (d, 2H, J=8 Hz), 7.16 (d, 2H, J=8 Hz), 7.01 (d, 2H, J=8 Hz), 6.71 (d, 2H, J=8 Hz), 6.27 (br s, 1H), 4.52 (br s, 2H), 4.15 (q, J=7 Hz), 2.58 (d, 3H, J=4 Hz), 2.44 (t, 2H, J=7 Hz ), 2.07 (t, 2H, J=7 Hz ), 1.72 (quint, 2H, J=7 Hz), 1.48 (s, 6H), 1.25 (s, 9H), (1.17 (t, 3H, J=7 Hz); 13C NMR (DMSO-d6) δ 174.0, 172.0, 158.7, 153.8, 149.9, 135.9, 129.7, 128.7, 125.6, 119.5, 79.2, 61.6, 50.8, 34.8, 34.4, 33.4, 31.8, 27.7, 27.1, 25.7, 14.6.; IR (CHCl3) 3009, 2966, 1671, 1509, 1211 cm−1; Anal. Calcd. for C29H41N3O5: C, 68.08; H, 8.08; N, 8.21. Found:,C, 67.70; H, 7.86; N, 8.11.

reactant | 4-[4-(1-Ethoxycarbonyl-1-methyl-ethoxy)-phenyl] butyric acid | 3.02 mmol, 0.89 g | C(C)OC(=O)C(C)(OC1=CC=C(C=C1)CCCC(=O)O)C | C16H22O5
reactant | Oxalyl chloride | 3.62 mmol, 316 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 0.24 mmol, 17 μL | CN(C=O)C | C3H7NO
reactant | N-Methyl-1-(4-t-butylphenylmethyl)hydrazine carboxamide methanesulfonate | 3.07 mmol, 1.02 g | CS(=O)(=O)O.CNC(=O)N(N)CC1=CC=C(C=C1)C(C)(C)C
reactant | pyridine | 6.14 mmol, 256 μL | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 6.14 mmol, 256 μL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 1-[4-[4-(1-Ethoxycarbonyl-1-methylethoxy)phenyl]butyryl]-2-(4-t-butylphenyl-methyl)-4-methylsemicarbazide | 1.06 g, 68% | C(C)OC(=O)C(C)(OC1=CC=C(C=C1)CCCC(=O)NN(C(=O)NC)CC1=CC=C(C=C1)C(C)(C)C)C | C29H41N3O5
